US04034095
Trans-8-amino-2,3,4,4a,11,11a-hexahydro-1H-benzo[ 5,6] cyclohepta[ 1,2-c] pyridine [process d)]
The starting material can be produced as follows. A solution of 13.2 g of trans-8-amino-1,2,3,4,4a,5,11,11a-octahydro-2-methyl-6H-benzo[5,6]cyclohepta[1,2-c]pyridin-6-one in 132 ml of ethanol is mixed at 40° with a solution of 1.45 g of sodium borohydride in 4 ml of water and 0.1 ml of water and 0.1 ml of conc. caustic soda and the resulting mixture is stirred for 1 hour at 70°. After addition of 10 ml of methanol, the reaction mixture is boiled for 10 minutes and evaporated to dryness and the residue is dissolved in water and chloroform. After separation of the organic phase, the aqueous phase is extracted with chloroform and the combined organic extracts are washed with water, dried over potassium carbonate and evaporated. The crude product is employed as such in the next step.

reactant | trans-8-amino-1,2,3,4,4a,5,11,11a-octahydro-2-methyl-6H-benzo[5,6]cyclohepta[1,2-c]pyridin-6-one | 13.2 g | NC=1C=CC2=C(C(C[C@@H]3[C@H](CN(CC3)C)C2)=O)C1 | C15H20N2O
reactant | sodium borohydride | 1.45 g | [BH4-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
solvent | ethanol | 132 ml | C(C)O | C2H6O
solvent | water | 4 ml | O | H2O
solvent | water | 0.1 ml | O | H2O
solvent | caustic soda | 0.1 ml | [OH-].[Na+]
product | Trans-8-amino-2,3,4,4a,11,11a-hexahydro-1H-benzo[ 5,6] cyclohepta[ 1,2-c] pyridine | NC=1C=CC2=C(C=C[C@@H]3[C@H](CNCC3)C2)C1 | C14H18N2
